US06821965B1
3-(6-chloropyrid-3-ylcarbonylamino)-N-(3-dimethylaminophenyl)-4-methylbenzamide
Using an analogous procedure to that described in Example 1, 6-chloropyrid-3-ylcarbonyl chloride was reacted with 3-amino-N-(3-dimethylaminophenyl)-4-methylbenzamide to give the title compound; Mass Spectrum: M+H+ 409 and 411.

reactant | 6-chloropyrid-3-ylcarbonyl chloride | ClC1=CC=C(C=N1)C(=O)Cl | C6H3Cl2NO
reactant | 3-amino-N-(3-dimethylaminophenyl)-4-methylbenzamide | NC=1C=C(C(=O)NC2=CC(=CC=C2)N(C)C)C=CC1C | C16H19N3O
product | 3-(6-chloropyrid-3-ylcarbonylamino)-N-(3-dimethylaminophenyl)-4-methylbenzamide | ClC1=CC=C(C=N1)C(=O)NC=1C=C(C(=O)NC2=CC(=CC=C2)N(C)C)C=CC1C | C22H21ClN4O2
